US05412097
To a mixture of 6-amino-7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine (80 mg, 0.15 mmol) in pyridine (0.5 mL) at 0° C. was added butylsulfonyl chloride (0.02 mL, 0.15 mmol). The mixture was stirred for 1 h, then 1 mL of MeOH was added and the mixture was concentrated. Purification (SiO2, 5% MeOH-EtOAc) gave 50 mg of 6-[(Butylsulfonyl)amino]-7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine as a solid.

reactant | 6-amino-7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine | 0.15 mmol, 80 mg | NC=1C(=C2C(=NC1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N)C | C23H25N5O2S
reactant | butylsulfonyl chloride | 0.15 mmol, 0.02 mL | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | MeOH | 1 mL | CO | CH4O
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 6-[(Butylsulfonyl)amino]-7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine | 50 mg | C(CCC)S(=O)(=O)NC=1C(=C2C(=NC1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N)C | C27H33N5O4S2
